US04380645
Step E: Preparation of 4,10-Dihydro-1,7-dimethyl-10-oxo-1H[1]-benzoxepino[4,3-b]pyrrole-2-acetic acid
To an ice-cooled suspension of 1.74 g (0.006 m) of methyl 4,10-dihydro-1,7-dimethyl-10-oxo-1H[1]-benzoxepino[4,3-b]pyrrole-2-acetate in a mixture of methanol (50 ml) and water (5 ml) under a nitrogen atmosphere was added 2.5 N sodium hydroxide solution (2.6 cc, 0.0066 m) over 1 minute. After 30 minutes the ice-bath was removed, and the mixture stirred at ambient temperatures for five hours. The mixture was diluted to ca. 150 ml with water, aged, filtered, and the filtrate acidified dropwise with 2.0 N hydrochloric acid. After filtration, washing and drying, 1.5 g of product was obtained which upon recrystallization from i-propanol-water yielded pure 4,10-dihydro-1,7-dimethyl-10-oxo-1H[1]-benzoxepino[4,3-b]-pyrrole-2-acetic acid, m.p. 196°-197° C.

reactant | methyl 4,10-dihydro-1,7-dimethyl-10-oxo-1H[1]-benzoxepino[4,3-b]pyrrole-2-acetate | 1.74 g | CN1C2=C(C=C1CC(=O)OC)COC1=C(C2=O)C=CC(=C1)C | C17H17NO4
reactant | sodium hydroxide | 2.5 N, 2.6 cc | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4,10-Dihydro-1,7-dimethyl-10-oxo-1H[1]-benzoxepino[4,3-b]pyrrole-2-acetic acid | 1.5 g | CN1C2=C(C=C1CC(=O)O)COC1=C(C2=O)C=CC(=C1)C | C16H15NO4
